US08835420B2
Step B: (S)-4-Amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile
A mixture of (S)-4-chloro-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile (1.857 g, 4.23 mmol) and ammonium hydroxide (0.494 mL, 12.69 mmol) was heated at 85° C. in a microwave reactor for 12 hours. Additional ammonium hydroxide (0.494 mL, 12.69 mmol) was added. The reaction mixture was heated at 85° C. in a microwave reactor for 6 hours and then concentrated to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C20H21N9S, 420.16; found 420.4.

reactant | (S)-4-chloro-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | 4.23 mmol, 1.857 g | ClC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)SC | C20H19ClN8S
reactant | ammonium hydroxide | 12.69 mmol, 0.494 mL | [OH-].[NH4+]
reactant | ammonium hydroxide | 12.69 mmol, 0.494 mL | [OH-].[NH4+]
product | (S)-4-Amino-6-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-2-(methylthio)pyrimidine-5-carbonitrile | NC1=NC(=NC(=C1C#N)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)SC | C20H21N9S
